US08258130B2
A solution of 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid chloride (1 mmol) in EtOAc (20 mL) is added to a stirred solution of 5-fluoro-indol-1-ylamine (1 mmol) and K2CO3 (1 mmol) in EtOAc (10 mL) and H2O (20 mL) at rt, then stirred at rt overnight. EtOAc is evaporated in vacuo, and the resulting solid is collected by filtration. The solid is crystallized from EtOAc/heptane to afford 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-fluoro-indol-1-yl)-amide (62 mg, 17%) as a solid. MS: 365 (M+H); 1H NMR (300 MHz, CDCl3): δ 2.82 (s, H), 6.55 (s, H) 6.90-7.41 (m, 4H), 7.49 (m, H), 8.26 (d, 2H), 8.57 (br, H), 8.96 (br, H). IC50=19 nM.

reactant | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid chloride | 1 mmol | FC=1C=C(C=CC1)C1=NC=C(C(=N1)C)C(=O)Cl | C12H8ClFN2O
reactant | 5-fluoro-indol-1-ylamine | 1 mmol | FC=1C=C2C=CN(C2=CC1)N | C8H7FN2
reactant | K2CO3 | 1 mmol | C(=O)([O-])[O-].[K+].[K+]
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
solvent | H2O | 20 mL | O | H2O
product | 2-(3-fluoro-phenyl)-4-methyl-pyrimidine-5-carboxylic acid (5-fluoro-indol-1-yl)-amide | 62 mg, 17% | FC=1C=C2C=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=CC(=CC=C1)F)C | C20H14F2N4O
